US05674886
EXAMPLE 54 4-[N-(4-cyanophenyl)-N-(4-methoxycarbonylbenzyl)-amino]-4H-1,2,4-triazole
Starting Compounds: 4-[N-(4-cyanophenyl)amino]-4H-1,2,4-triazole and methyl 4-bromomethylbenzoate

reactant | 4-[N-(4-cyanophenyl)amino]-4H-1,2,4-triazole | C(#N)C1=CC=C(C=C1)NN1C=NN=C1 | C9H7N5
reactant | methyl 4-bromomethylbenzoate | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
product | 4-[N-(4-cyanophenyl)-N-(4-methoxycarbonylbenzyl)-amino]-4H-1,2,4-triazole | C(#N)C1=CC=C(C=C1)N(CC1=CC=C(C=C1)C(=O)OC)N1C=NN=C1 | C18H15N5O2
